US06953806B2
In analogy to the method described in example 12.1, trans-[4-(4-bromo-butoxymethyl)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester was reacted with ethyl-(2-hydroxy-ethyl)-amine in N,N-dimethylacetamide at 50° C. for 3 hours to yield trans-(4-{4-[ethyl-(2-hydroxy-ethyl)-amino]-butoxymethyl}-cyclohexylmethyl)-methyl-carbamic acid 4-chloro-phenyl ester as colorless viscous oil, MS: 455 (MH+, 1Cl).

reactant | trans-[4-(4-bromo-butoxymethyl)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)COCCCCBr)=O | C20H29BrClNO3
reactant | ethyl-(2-hydroxy-ethyl)-amine | C(C)NCCO | C4H11NO
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | trans-(4-{4-[ethyl-(2-hydroxy-ethyl)-amino]-butoxymethyl}-cyclohexylmethyl)-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)COCCCCN(CCO)CC)=O | C24H39ClN2O4
